Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ YO homeless male who presented to the ED for 2 
days of watery green diarrhea. He was in his usual state of 
health until 3 days ago when he developed greenish watery 
diarrhea. He has had > 20 BMs a day. Also has had diffuse mild 
cramping, nausea, weakness, and pre-syncope. Today he noted 
fevers and chills. He has also has HA and a cough for 2 months 
and recently was prescribed a z pack for this ___. He 
denies emesis but has had loss of appetite (last meal 2 days 
ago). Denies undercooked meat. Possible sick contacts at the 
___. There is only one bathroom for > 100 residents. He also 
recently returned from ATL on a plane.  
.  
Of note, Mr. ___ denies current blood in his stool, but he had 
BRBPR 1 month ago with anemia and states that his PCP wanted to 
refer him for colonoscopy.  
.  
In the ED vital signs were: Temp:97.1 HR:130 BP:108/76 Resp:18 
O(2)Sat:100 RA. His EKG revealed sinus tacycardia. His abdomen 
was slightly tender. Patient had a CT scan of abd/pelvis and CXR 
which were both normal. Hct, chem 7, and LFTs were WNL except 
for bicarb 21. No anion gap. Patient was given 4 liters of 
intravenous fluids but remained tachycardic with HR 110-120 and 
then he spiked a temperature of 100.8. He was given zofran, 
famotidine, tylenol, and morphine. He was admitted for fluid 
hydration. Vital signs at the time of transfer were 100.3 111 
124/76 18 100RA  
.  
On the floor, pt is still having multiple bouts of diarrhea, but 
otherwise denies complaint.  
.  
Review of systems:  
(+) Per HPI. Also + for rhinorha, HA, cough. No SOB, CP, or 
palpitations. No dysuria. Denied arthralgias or myalgias and 
rash.
 
Past Medical History:
1. Homelessness: Lives in shelter by ___ for past few months 
since moved here from ___. Recently applied for ___ 
___  
2. bronchitis - presented to ED ___ with multiple complaints - 
treated with albuterol inhaler and Z pack  
3. anxiety/depression - presented to ED ___ and ___. Paranoid personality disorder  
5. nephrolithiasis - seen on CT scan  
6. Trigger finger - offerred surgery but has declined  
7. h/o head trauma at age ___ s/p being struck in head with a  
baseball. Denies LOC at that time.  
8. s/p MVA ___ years ago, pedestrian struck by utility vehicle. 
+LOC.  
9. HTN  
10. spinal stenosis  
11. PTSD 
 
Social History:
___
Family History:
CAD- 4 brothers had MI  
mother had stent placed  
father lung cancer  
sister with depression, daughter with bipolar d/O  

 
Physical Exam:
Vitals: T: 98.3 BP: 135/90 P: 99 R: 18 O2: 100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: + BS, diffusely tender to palpation in all quadrants, 
soft, mildly distended, no rebound tenderness or guarding, no 
organomegaly or ascites, rectal exam revealed no stool in vault, 
Guaiac neg.  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
 
Pertinent Results:
___ 09:35PM   LACTATE-1.1
___ 04:20PM   GLUCOSE-121* UREA N-16 CREAT-1.1 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-21* ANION GAP-14
___ 04:20PM   ALT(SGPT)-15 AST(SGOT)-25 ALK PHOS-83
___ 04:20PM   LIPASE-31
___ 04:20PM   WBC-6.1 RBC-5.17 HGB-14.5 HCT-42.3 MCV-82# 
MCH-28.0 MCHC-34.2# RDW-13.7
___ 04:20PM   NEUTS-84.3* LYMPHS-10.7* MONOS-2.6 EOS-2.1 
BASOS-0.3
___ 04:20PM   PLT COUNT-265

  OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE - R/O VIBRIO (Preliminary): 

   FECAL CULTURE - R/O YERSINIA (Preliminary): 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   Cryptosporidium/Giardia (DFA) (Preliminary): 

___ 10:16 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

___ 7:08 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Pending): 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

 
Brief Hospital Course:
Mr. ___ is a ___ YO homeless male who presented with acute 
diarrhea and was admitted for rehydration.  

# Diarrhea: Pt has acute onset of diarrhea, fever, nausea, and 
anorexia, most likely infectious. Given time of year and 
exposure to sick contacts in crowded shelter Viral 
gastroenteritis was felt to be the most likley etiology. Stool 
studies were sent regardless. He was placed on a bland diet and 
treated symptomatically with loperamide, IVF prn, and tylenol 
for abdominal pain. On HD2 his diarrhea had improved, he had 
remiained afebrile with stable VS and was tolerating bland diet 
with minimal abdominal pain. C diff and HIV were both negative 
as were O&P x2. There was no salmonella, shigella or Ecoli 
OH:571. Studies for yersinia, vibrio and cryptosporidum were 
pending at the time of discharge and should be followed up by 
his PCP as the results become available.
.
. 
# Sinus tachycardia: Likely from volume depletion. Pt received 
5L NS in the ED and an additional 1L of NS once on the floor. 
His tachycardia subsequently resolved and his VS remined stable 
throughout the course of his hospitalization.
 
.  
# Chronic cough: CXR no evidence of pneumonia. Pt does have post 
nasal drip which could contribute to chronic cough. He was not 
hypoxic nor was he ever in distress. This will need to be 
adressed by his PCP. 
.  
# Depression:  
COntinued home medications. He will follow up with his 
depression support group.
.  
# Homeless: SW saw and evaluated patient and have made 
arrangments for temporary housing following discharge. Please 
refer to their note for details.
.
# Hx of BRBRP: Pt denies current bleeding. But had seveal 
episodes of blood streaked toilet paper during his admission. 
His HCT remained stable. Thought secondary to hemmorhoids vs 
irritation from frequent stooling. Pt's last C-scope was ___ years 
ago in ___ and was reportedly normal. He should follow up 
with his PCP for appropriate screening/ further workup.

 
Medications on Admission:
1. risperidone 2 mg Tablet Sig: One (1) Tablet PO at bedtime.  
2. citalopram Oral 

 
Discharge Medications:
1. risperidone 2 mg Tablet Sig: One (1) Tablet PO at bedtime.  
2. loperamide 2 mg Capsule Sig: One (1) Capsule PO QID (4 times 
a day) as needed for loose stools for 5 days.
Disp:*20 Capsule(s)* Refills:*0*
3. citalopram  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Viral enteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ because you had diarrhea that made 
you dehydrated. The most likely cause of your diarrhea was a 
viral gastroenteritis. We gave you IV fluids and managed your 
symptoms with a medication called loperamide that helps decrease 
the frequency of bowel movements. 

While you were here we made the following changes to your 
medications:
We started you on Loperamide 2mg every 4 hours as needed for 
diarrhea.

Otherwise you should continue taking your home medications as 
prescribed
 
Followup Instructions:
___